US08530470B2
Diacetoxypalladium (0.028 g, 0.13 mmol) was added to a stirred mixture of methyl 2-morpholino-4-oxo-8-[(2R)-pyrrolidin-2-yl]chromene-6-carboxylate (0.9 g, 2.51 mmol), 1-bromo-3,5-difluorobenzene (0.361 ml, 3.14 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (145 mg, 0.25 mmol) and cesium carbonate (1.227 g, 3.77 mmol) dissolved in 1,4-dioxane (16 mL). The resulting suspension was degassed with argon and then stirred at 100° C. for 15 h. The reaction mixture was allowed to cool to room temperature, concentrated in presence of silica gel and purified by flash chromatography on silica gel eluting with 0 to 10% MeOH in EtAc. The solvent was evaporated to dryness to afford methyl 8-[(2R)-1-(3,5-difluorophenyl)pyrrolidin-2-yl]-2-morpholino-4-oxo-chromene-6-carboxylate (0.792 g, 67%) as an yellow foam. Mass Spectrum: m/z [M+H]+=471.

reactant | methyl 2-morpholino-4-oxo-8-[(2R)-pyrrolidin-2-yl]chromene-6-carboxylate | 2.51 mmol, 0.9 g | O1CCN(CC1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)OC)[C@@H]1NCCC1 | C19H22N2O5
reactant | 1-bromo-3,5-difluorobenzene | 3.14 mmol, 0.361 ml | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.25 mmol, 145 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 3.77 mmol, 1.227 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 16 mL | O1CCOCC1 | C4H8O2
catalyst | Diacetoxypalladium | 0.13 mmol, 0.028 g | C(C)(=O)O[Pd]OC(C)=O
product | methyl 8-[(2R)-1-(3,5-difluorophenyl)pyrrolidin-2-yl]-2-morpholino-4-oxo-chromene-6-carboxylate | 0.792 g, 67% | FC=1C=C(C=C(C1)F)N1[C@H](CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC | C25H24F2N2O5
